US07700598B2
1e 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonylchloride
6 g (12.1 mmol) phosgene (20 percent by weight in toluene) were added to a solution of 2.5 g (10.2 mmol) 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one and 2.6 mL (14.9 mmol) ethyldiisopropylamine in 75 mL DCM cooled to 0° C. and the reaction mixture was stirred for 30 min at this temperature. The mixture was allowed to warm up to RT, evaporated down i.vac. to approx. 50 mL and filtered through silica gel, this was washed with 200 mL DCM/EtOAc (1:1) and the combined organic filtrates were again evaporated down i.vac. The residue was stirred with DIPE, suction filtered and dried i.vac.

reactant | phosgene | 12.1 mmol, 6 g | C(=O)(Cl)Cl | CCl2O
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 10.2 mmol, 2.5 g | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
reactant | ethyldiisopropylamine | 14.9 mmol, 2.6 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonylchloride | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)Cl)C=CC=C2 | C15H18ClN3O2
